US07402595B2
6-bromo-2-(4-ethoxybenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester
To a mixture of 6-bromo-2-(4-hydroxybenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester (200 mg), potassium carbonate (89 mg) and DMF (4.0 ml) was added ethyl iodide (41 μl) at room temperature with stirring, and the mixture was stirred at room temperature for 12 hrs. The reaction mixture was concentrated, and the residue was partitioned between ethyl acetate and water. The organic layer was dried over magnesium sulfate and concentrated. The residue was purified by medium pressure preparative LC (hexane/ethyl acetate=9/1-1/1) to give the title compound (110 mg) as colorless crystals.

reactant | 6-bromo-2-(4-hydroxybenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 200 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)O | C24H18BrNO4
reactant | potassium carbonate | 89 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl iodide | 41 μl | C(C)I | C2H5I
solvent | DMF | 4.0 ml | CN(C)C=O | C3H7NO
product | 6-bromo-2-(4-ethoxybenzyl)-1-oxo-4-phenyl-1,2-dihydroisoquinoline-3-carboxylic acid methyl ester | 110 mg | COC(=O)C=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)Br)=O)CC1=CC=C(C=C1)OCC | C26H22BrNO4
